US07855290B2
1-(Benzyloxycarbonyl)cyclopropanecarboxylic acid
1,1-Cyclopropanedicarboxylic acid (5.02 g) was dissolved in tetrahydrofuran (50 ml) under a nitrogen atmosphere, and triethylamine (5.38 ml) was added dropwise thereto while stirring in an ice water bath. After stirring at the same temperature for 30 min, thionyl chloride (2.82 ml) was added dropwise while stirring in an ice water bath. After stirring at the same temperature for 30 min, a solution of benzyl alcohol (4.39 ml) in tetrahydrofuran (25 ml) was added while stirring in an ice water bath, and the reaction mixture was allowed to gradually warm up to room temperature, followed by stirring overnight. To the reaction mixture was added a 2N aqueous solution of sodium hydroxide (100 ml), and tetrahydrofuran was removed under reduced pressure. To the resultant aqueous solution was added tert-butyl methyl ether (25 ml) and stirred. The organic layer and the aqueous layer were separated. The aqueous layer was cooled in an ice water bath, and adjusted to pH 4 with 2N hydrochloric acid (50 ml). Ethyl acetate (150 ml) was added thereto and stirred for a while. The organic layer was separated, washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed to give residue, which was dried under reduced pressure to provide the titled compound as a pale yellow oil (6.29 g, 74%).

reactant | 1,1-Cyclopropanedicarboxylic acid | 5.02 g | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | thionyl chloride | 2.82 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzyl alcohol | 4.39 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 5.38 ml | C(C)N(CC)CC | C6H15N
product | 1-(Benzyloxycarbonyl)cyclopropanecarboxylic acid | 6.29 g, 74% | C(C1=CC=CC=C1)OC(=O)C1(CC1)C(=O)O | C12H12O4
